US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2-fluoro-4-(trifluoromethyl)benzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2-fluoro-4-(trifluoromethyl)benzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.41 (m, 1 H), 7.39-7.28 (m, 3 H), 7.25-7.18 (m, 1 H), 7.14-7.10 (m, 1 H), 6.93 (dd, J=3.9, 8.4 Hz, 1 H), 6.29 (dd, J=3.5, 12.1 Hz, 1 H), 5.70-5.62 (m, 1 H), 5.62-5.52 (m, 2 H), 4.33-4.25 (m, 2 H), 2.96-2.77 (m, 2 H), 2.73 (s, 3 H), 2.16-2.03 (m, 2 H), 1.01-0.92 (s, 9 H); LC/MS (m/z) ES+=571 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2-fluoro-4-(trifluoromethyl)benzyl bromide | FC1=C(CBr)C=CC(=C1)C(F)(F)F | C8H5BrF4
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2-fluoro-4-(trifluoromethyl)benzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C=C(C=C2)C(F)(F)F)F)C=2C=C1CCCOC1=CC2 | C31H30F4N2O4
